US07288674B2
In a 50 mL Schlenk tube purged with nitrogen, 22 mg of 2,2-bis[2-[(4S)-1-naphthyloxazoline]]propane was added to a white suspension containing 18 mg of cuprous trifluoromethanesulfonate and 5 mL of dichloroethane and stirred at a room temperature for 10 minutes to prepare a blue color homogeneous solution of an asymmetric copper complex. After that, 7.8 g of 2,5-dimethyl-2,4-hexadiene was added thereto and the inner temperature was adjusted to 40° C. and 1.4 g of tert-butyl diazoacetate was dropwise added for 2 hours and the resulting mixture was stirred at the same temperature further for 30 minutes to effect reaction and tert-butyl 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate was obtained in a yield of 89% (based on tert-butyl diazoacetate). Trans-isomer/cis-isomer ratio=81/19. The optical purity of the trans-isomer was 86% e.e. and that of the cis-isomer was 60% e.e.

reactant | 2,5-dimethyl-2,4-hexadiene | 7.8 g | CC(C)=CC=C(C)C | C8H14
reactant | tert-butyl diazoacetate | 1.4 g | [N+](=[N-])=CC(=O)OC(C)(C)C | C6H10N2O2
product | tert-butyl 2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate | yield of 89% | CC1(C(C1C=C(C)C)C(=O)OC(C)(C)C)C | C14H24O2
